US08791100B2
1. 3-Bromo-2,6-dimethyl-benzoic acid, INT 34
To a solution of 2,6-dimethylbenzoic acid (25.00 g, 166 mmol) in HOAc (432 mL) was added NaOAc (16.39 g, 200 mmol) followed by bromine (11.2 mL, 216 mmol). The reaction mixture was stirred at room temperature overnight. The mixture was poured onto ice water (800 mL) and stirred for 20 minutes. The solid was filtered off, washed with H2O and dried at 50° C. under vacuum to give INT 34.

reactant | 2,6-dimethylbenzoic acid | 166 mmol, 25.00 g | CC1=C(C(=O)O)C(=CC=C1)C | C9H10O2
reactant | NaOAc | 200 mmol, 16.39 g | CC(=O)[O-].[Na+]
reactant | bromine | 216 mmol, 11.2 mL | BrBr | Br2
solvent | HOAc | 432 mL | CC(=O)O | C2H4O2
product | 3-Bromo-2,6-dimethyl-benzoic acid | BrC=1C(=C(C(=O)O)C(=CC1)C)C | C9H9BrO2
